US06423704B1
1-[(R)-3-(2-{4-[1-(2-Ethoxy-ethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepan-1-yl}-ethyl)-3-phenyl-pyrrolidin-1-yl]-1-[2-methoxy-5-(2-methoxy-ethoxy)-phenyl]-methanone
Stir a mixture of 1-(2-ethoxy-ethyl)-2-{4-[2-((S)-3-phenyl-pyrrolidin-3-yl)-ethyl]-[1,4]diazepan-1-yl}-1H-benzoimidazole dihydrochloride (0.32 g, 0.6 mmol, Preparation 12.1), 2-methoxy-5-(2-methoxy-ethoxy)-benzoic acid (0.16 g, 0.72 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (0.14 g, 0.72 mmol), 1-hydroxybenzotriazole hydrate (0.097 g, 0.72 mmol), diisopropyoethylamine (0.2 mL, 1.2 mmol) and dichloromethane (20 mL) overnight at room temperature. Dilute the reaction mixture with dichloromethane, wash with saturated brine, dry (MgSO4) the organic phase, filter and concentrate the filtrate in vacuo. Purify the residue by column chromatography on silica gel eluting sequentially with ethyl acetate, 5% methanol in dichloromethane and 10% methanol in dichloromethane. Concentrate the appropriate fractions to afford 0.32 g of the title compound, Rf=0.46 (silica gel, 10% methanol in dichloromethane). The compound may be converted to the dihydrochloride salt by methods well known in the art.

reactant | 1-(2-ethoxy-ethyl)-2-{4-[2-((S)-3-phenyl-pyrrolidin-3-yl)-ethyl]-[1,4]diazepan-1-yl}-1H-benzoimidazole dihydrochloride | 0.6 mmol, 0.32 g | Cl.Cl.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCN(CCC2)CC[C@]2(CNCC2)C2=CC=CC=C2
reactant | 2-methoxy-5-(2-methoxy-ethoxy)-benzoic acid | 0.72 mmol, 0.16 g | COC1=C(C(=O)O)C=C(C=C1)OCCOC | C11H14O5
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.72 mmol, 0.14 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole hydrate | 0.72 mmol, 0.097 g | O.ON1N=NC2=C1C=CC=C2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-[(R)-3-(2-{4-[1-(2-Ethoxy-ethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepan-1-yl}-ethyl)-3-phenyl-pyrrolidin-1-yl]-1-[2-methoxy-5-(2-methoxy-ethoxy)-phenyl]-methanone | 0.32 g | C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCN(CCC2)CC[C@]2(CN(CC2)C(=O)C2=C(C=CC(=C2)OCCOC)OC)C2=CC=CC=C2 | C39H51N5O5
